US04985444
A mixture of 4-oxo-4-(2-phenylpyrazolo[1,5-a]pyridin-3-yl)crotonic acid (3.61 g), zinc powder (5.0 g) and acetic acid (50 ml) was heated at 100° C. for 1.5 hours. The zinc powder was filtered off and washed with acetic acid. The filtrate and washings were combined and evaporated in vacuo. To the residue a saturated aqueous solution of sodium hydrogen carbonate (50 ml) was added and extracted with ethyl acetate (50 ml×2). The combined extracts were washed with a saturated aqueous solution of sodium chloride (50 ml), dried over magnesium sulfate and evaporated in vacuo. The residue was recrystallized from ethanol to give crystals of 4-oxo-4-(2-phenylpyrazolo[1,5-a]pyridin-3-yl)butyric acid (1.65 g).

reactant | 4-oxo-4-(2-phenylpyrazolo[1,5-a]pyridin-3-yl)crotonic acid | 3.61 g | O=C(/C=C/C(=O)O)C=1C(=NN2C1C=CC=C2)C2=CC=CC=C2 | C17H12N2O3
catalyst | zinc | 5.0 g | [Zn] | Zn
solvent | acetic acid | 50 ml | C(C)(=O)O | C2H4O2
product | 4-oxo-4-(2-phenylpyrazolo[1,5-a]pyridin-3-yl)butyric acid | 1.65 g | O=C(CCC(=O)O)C=1C(=NN2C1C=CC=C2)C2=CC=CC=C2 | C17H14N2O3
